US08710236B2
To 5-[(E)-2-(4-tert-Butyl-phenyl)-2-carboxy-vinyl]-thiophene-2-carboxylic acid methyl ester (600 mg, 1.7 mmol) in 50 ml THF and 10 ml 1 NHCl was added 10% palladium on carbon (1.5 g). The resulting mixture was stirred under 50 psi hydrogen gas for 2 hours. The catalyst was filtered off and the solvent was evaporated. The residue was sonicated in hexane for 30 seconds. The solvent was filtered to afford 5-[2-(4-tert-Butyl-phenyl)-2-carboxy-ethyl]-thiophene-2-carboxylic acid methyl ester as a yellow solid (480 mg, 81%).

reactant | 5-[(E)-2-(4-tert-Butyl-phenyl)-2-carboxy-vinyl]-thiophene-2-carboxylic acid methyl ester | 1.7 mmol, 600 mg | COC(=O)C=1SC(=CC1)\C=C(\C(=O)O)/C1=CC=C(C=C1)C(C)(C)C | C19H20O4S
reactant | hydrogen | [H][H] | H2
solvent | THF | 50 ml | C1CCOC1 | C4H8O
catalyst | palladium on carbon | 1.5 g | [Pd] | Pd
product | 5-[2-(4-tert-Butyl-phenyl)-2-carboxy-ethyl]-thiophene-2-carboxylic acid methyl ester | 480 mg, 81% | COC(=O)C=1SC(=CC1)CC(C(=O)O)C1=CC=C(C=C1)C(C)(C)C | C19H22O4S
